US08084559B2
There was dissolved 2.28 g (8.19 mmol) of 2,7-di-tert-butylfluorene in 37 mL of THF, and the obtained solution was cooled down to 0° C. To the solution, 5.19 mL of a 1.58 M-concentration hexane solution of n-butyllithium was added slowly, 5.19 mL of said hexane solution containing 8.20 mmol of n-butyllithium. Temperature of the resultant mixture was raised up to a room temperature, and the mixture was stirred for 1 hour at a room temperature. The mixture was cooled down to 0° C., and a solution of 2.89 g (8.17 mmol) of (2-allyloxy-3-tert-butyl-5-methyl phenyl)chlorodi-n-propylsilane in 9 mL of THF was added to the mixture. Temperature of the resultant mixture was raised up to a room temperature, and the mixture was stirred for 3 hours, thereby obtaining a reaction solution. A mixture of 50 mL of a 10% aqueous solution of sodium hydrogen carbonate and 50 mL of a 10% aqueous solution of sodium carbonate was added to the reaction solution at 0° C. To the obtained mixture, 58 mL of toluene was added, and the mixture was separated to the toluene solution and the aqueous solution. The toluene solution was dried over sodium sulfate, and the mixture was filtered. The obtained filtrate was concentrated under a reduced pressure. The concentrated filtrate was treated according to silica gel-column chromatography using, as a developing solvent, a 0.5% concentration-solution of triethylamine in a mixed solvent of 10 parts by volume of hexane and 1 part by volume of ethyl acetate, thereby obtaining 1.01 g (yield: 20.7%) of (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,7-di-tert-butylfluoren-9-yl)di-n-propylsilane.

reactant | 2,7-di-tert-butylfluorene | 8.19 mmol, 2.28 g | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
reactant | n-butyllithium | 8.20 mmol | C(CCC)[Li]
reactant | (2-allyloxy-3-tert-butyl-5-methyl phenyl)chlorodi-n-propylsilane | 8.17 mmol, 2.89 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CCC)(CCC)Cl | C20H33ClOSi
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 37 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 58 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 5.19 mL | CCCCCC | C6H14
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,7-di-tert-butylfluoren-9-yl)di-n-propylsilane | 1.01 g, yield: 20.7% | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CCC)(CCC)C1C2=CC(=CC=C2C=2C=CC(=CC12)C(C)(C)C)C(C)(C)C | C41H58OSi
